US04263291
An aqueous solution of 1 N sodium hydroxide (5.4 ml.) was added with stirring at ambient temperature to a solution of methyl 2-methoxyimino-2-(1,2,5-thiadiazol-3-yl)acetate (syn isomer) (0.9 g.) in methanol (10 ml.) and the mixture was stirred for 1 hour at ambient temperature. Methanol was distilled off and water was added to the residue, after which the mixture was washed with ether. The aqueous layer was adjusted to pH 1.5 with 10% hydrochloric acid, subjected to salting-out and extracted with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. Ether was distilled off. Benzene was added to the residue and removed to give crystals of 2-methoxyimino-2-(1,2,5-thiadiazol-3-yl)acetic acid (syn isomer) (0.67 g.), mp 99° to 100° C.

reactant | sodium hydroxide | 1 N, 5.4 ml | [OH-].[Na+]
reactant | methyl 2-methoxyimino-2-(1,2,5-thiadiazol-3-yl)acetate | 0.9 g | CON=C(C(=O)OC)C1=NSN=C1 | C6H7N3O3S
solvent | methanol | 10 ml | CO | CH4O
product | 2-methoxyimino-2-(1,2,5-thiadiazol-3-yl)acetic acid | 0.67 g | CON=C(C(=O)O)C1=NSN=C1 | C5H5N3O3S
